US08012966B2
5-Fluoro-1,3-dihydro-indol-2-one (5.0 g, 33 mmol) was added with 98% sulfuric acid (17.6 ml) and 65%-68% nitric acid (2.1 ml) in an ice-water bath with salt at −5° C. Upon the completion of the addition, the mixture was stirred for 1 hour at room temperature and added with ice-water until precipitate was formed. The solid was filtered and washed with water (50 ml×3) and recrystallized from acetic acid and water to give 7-amino-5-fluoro-1,3-dihydro-indol-2-one (4.0 g, 62.5%) as an orange solid.

reactant | 5-Fluoro-1,3-dihydro-indol-2-one | 33 mmol, 5.0 g | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | sulfuric acid | 17.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 2.1 ml | [N+](=O)(O)[O-] | HNO3
product | 7-amino-5-fluoro-1,3-dihydro-indol-2-one | 4.0 g, 62.5% | NC=1C=C(C=C2CC(NC12)=O)F | C8H7FN2O
